US06881733B1
A mixture of 90.4 gm (0.40 mole) 2-bromo-4-fluoro-5-chlorophenol (containing 10% 2-bromo-3-chloro-4-fluorophenol) and 64 gm (0.45 mole) hexamethylenetetramine was cooled in an ice bath. To this cooled mixture were added 306 mL trifluoroacetic acid. After stirring at about 0° C. for 15 minutes, the reaction mixture was heated at reflux for 1.5 hours. The reaction mixture was then cooled in an ice bath and treated with 439 mL of water followed by 220 mL 50% sulfuric acid. The reaction mixture was stirred without cooling for two hours. The reaction mixture was then diluted with 500 mL water and the resulting solid collected by filtration. The solid was washed with water until the wash was neutral (pH about 7). The solid was dried under reduced pressure and was then subjected to silica gel chromatography, eluting with a gradient of hexane containing from 0-2% ethyl acetate. Fractions containing the desired compound were combined and concentrated under reduced pressure to provide 57 gm (62%) 2-hydroxy-3-bromo-5-fluoro-6-chlorobenzaldehyde.

reactant | 2-bromo-4-fluoro-5-chlorophenol | 0.40 mole, 90.4 gm | BrC1=C(C=C(C(=C1)F)Cl)O | C6H3BrClFO
reactant | hexamethylenetetramine | 0.45 mole, 64 gm | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 306 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sulfuric acid | 220 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 mL | O | H2O
solvent | water | 439 mL | O | H2O
product | 2-hydroxy-3-bromo-5-fluoro-6-chlorobenzaldehyde | 57 gm, 62% | OC1=C(C=O)C(=C(C=C1Br)F)Cl | C7H3BrClFO2
